US08877955B2
3-(2,2-dimethyl-3-(N,N-dimethylamino)propylideneamino)propyltrimethoxysilane
13.57 g 2,2-dimethyl-3-dimethylaminopropanal, 7.45 g 2-propanamine and 17.93 g 3-aminopropyltrimethoxysilane were reacted according to the general manufacturing procedure (iminosilanes). The product was distilled after manufacture in order to remove oligomer portions. Yield: 28.4 g of a clear, colorless oil having an amine content of 6.61 mmol N/g and a purity of 95%.

reactant | 2,2-dimethyl-3-dimethylaminopropanal | 13.57 g | CC(C=O)(CN(C)C)C | C7H15NO
reactant | 2-propanamine | 7.45 g | CC(C)N | C3H9N
reactant | 3-aminopropyltrimethoxysilane | 17.93 g | NCCC[Si](OC)(OC)OC | C6H17NO3Si
product | 3-(2,2-dimethyl-3-(N,N-dimethylamino)propylideneamino)propyltrimethoxysilane | CC(C=NCCC[Si](OC)(OC)OC)(CN(C)C)C | C13H30N2O3Si
